US04479962
1-(Benzimidazolin-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol hydrochloride
Phosgene is passed into a solution of 21.5 g. 2,3-diamino-1-{2-hydroxy-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propoxy}-benzene trihydrochloride in 400 ml. water for 45 minutes, while cooling (internal temperature 20° to 25° C.). After flushing with nitrogen, the aqueous supernatant is decanted off and the precipitate recrystallized from ethanol/methanol (1:1 v/v), with the addition of active charcoal. There are obtained 6.6 g. (35% of theory) of the desired compound; m.p. 248°-250° C.

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2,3-diamino-1-{2-hydroxy-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propoxy}-benzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=CC=C1N)OCC(CNCCNC1=C(C=CC=C1C)C)O
solvent | water | O | H2O
product | 1-(Benzimidazolin-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol hydrochloride | Cl.N1=CNC2=C1C=CC=C2OCC(CNCCNC2=C(C=CC=C2C)C)O | InChI=1S/C20H26N4O2.ClH/c1-14-5-3-6-15(2)19(14)22-10-9-21-11-16(25)12-26-18-8-4-7-17-20(18)24-13-23-17;/h3-8,13,16,21-22,25H,9-12H2,1-2H3,(H,23,24);1H
